US08048878B2
Synthesis of (E)-(6S*,9aR*)-6-(4-hydroxymethylphenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one
Lithium aluminum hydride (4 mg) was added to a solution of methyl (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoate (50 mg) in THF (1 mL) at 0° C., and the reaction solution was stirred at 0° C. for two hours. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 24 mg of the title compound. The property values of the compound are as follows.

reactant | Lithium aluminum hydride | 4 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoate | 50 mg | COC=1C=C(\C=C/2\C(N3[C@@H](CCC[C@@H]3CC2)C2=CC=C(C(=O)OC)C=C2)=O)C=CC1N1C=NC(=C1)C | C29H31N3O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (E)-(6S*,9aR*)-6-(4-hydroxymethylphenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one | 24 mg | OCC1=CC=C(C=C1)[C@H]1N2C(/C(/CC[C@H]2CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C28H31N3O3
